US04863920
14.55 g (43 mmol) of ethyl 7-chloro-8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate was heated to boiling under reflux for 15 minutes with 1.90 g (45.7 mmol) of sodium hydroxide in 80 ml of ethanol and 30 ml of water. The reaction mixture was then cooled and treated with 10.4 ml of 4N hydrochloric acid. By suction filtering the suspension obtained and drying the product there was obtained 7-chloro-8-fluoro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid of decomposition point 260°.

reactant | ethyl 7-chloro-8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 43 mmol, 14.55 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC)C)=O)F | C15H13ClFN3O3
reactant | sodium hydroxide | 45.7 mmol, 1.90 g | [OH-].[Na+]
reactant | hydrochloric acid | 4N, 10.4 ml | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 7-chloro-8-fluoro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | ClC1=C(C=CC2=C1C(NCC=1N2C=NC1C(=O)O)=O)F | C12H7ClFN3O3
